US08304419B2
4-Chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethenyl-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide
Et3N (0.351 ml, 2.52 mmol) was added to a mixture of N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-2-methyl-1H-imidazole-5-carboxamide (251 mg, 0.504 mmol), potassium vinyltrifluoroborate (101 mg, 0.756 mmol) and 1,1′-bis(diphenylphosphino)ferrocene palladium (II) dichloride dichloromethane complex (41.1 mg, 0.050 mmol) in n-propanol (5 ml) under N2. The mixture was heated to 100° C. and stirred for 4 h. Cooled down to RT and the reaction mixture was filtered through a pad of celite and concentrated to dryness. The residue was dissolved in EtOAC, washed with Sat. NaHCO3, dried over Na2SO4. After filtration and concentration, the residue was purified by chromatography on silica gel eluted with 0-5% 2M NH3 solution of MeOH in CH2Cl2 to give the title compound as a light-yellow solid (154 mg, 69%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 11.33 (1H, br. s.) 7.40 (1H, d, J=8.2 Hz) 7.31 (1H, s) 7.26-7.29 (1H, m) 7.12 (2H, br. s.) 6.98 (1H, s) 6.69 (1H, dd, J=17.6, 11.2 Hz) 5.81 (1H, d, J=17.6 Hz) 5.37 (1H, d, J=11.1 Hz) 4.70 (2H, d, J=5.9 Hz) 2.39 (3H, s). LCMS: m/z 445 (M+1).

reactant | Et3N | 2.52 mmol, 0.351 ml | CCN(CC)CC | C6H15N
reactant | N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-2-methyl-1H-imidazole-5-carboxamide | 0.504 mmol, 251 mg | BrC1=C(C(=C(C=C1)CNC(=O)C1=C(N=C(N1)C)Cl)F)OC1=CC(=CC(=C1)C#N)Cl | C19H12BrCl2FN4O2
reactant | potassium vinyltrifluoroborate | 0.756 mmol, 101 mg | C(=C)[B-](F)(F)F.[K+]
solvent | n-propanol | 5 ml | C(CC)O | C3H8O
product | 4-Chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethenyl-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide | 154 mg, 69% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)C=C)OC1=CC(=CC(=C1)C#N)Cl)F)C | C21H15Cl2FN4O2
